data/oMe_Silver.jsonl
{"reaction_id": "NR-336_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-CCCC(C)C_3-c1ccccc1","level": "medium","name": "Robinson-Gabriel Synthesis","reactants_smiles": ["C(=O)(NC([H])(CCCC(C)C)C(=O)c1ccccc1)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2"],"products_smiles": ["CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2c1nc(CCCC(C)C)c(c1ccccc1)o1"],"conditions": "Acid (e.g., H-OTs, H2SO4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC([H])(CCCC(C)C)C(=[OH+])c1ccccc1)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the adjacent carbon, making it more susceptible to nucleophilic attack by the nearby amide nitrogen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C1=[NH+]C(CCCC(C)C)C(O)(c1ccccc1)O1","step_weight": 0,"rationale": "The amide nitrogen attacks the activated carbonyl carbon intramolecularly, favored by proximity and ring closure, forming a five-membered oxazolinium intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C1=NC(CCCC(C)C)C([OH2+])(c1ccccc1)O1","step_weight": 0,"rationale": "Proton transfer to the hydroxyl group converts it into a better leaving group (water), facilitated by the acidic medium."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2c1nc(CCCC(C)C)c(c1ccccc1)o1","step_weight": 0,"rationale": "Loss of water generates a conjugated aromatic oxazole ring, driven by the stability of the aromatic system and the good leaving ability of water under acidic conditions."}],"description": "Under acidic conditions, the amide carbonyl is activated toward intramolecular cyclization. Protonation increases electrophilicity, enabling nucleophilic attack by the amide nitrogen to form an oxazole ring. Subsequent proton transfers and water elimination yield the aromatic heterocycle."}
{"reaction_id": "NR-108_1-c1ccc(C(F)(F)F)cc1_2-OC_3-c1ccc(F)cc1","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(c1ccc(F)cc1)CCCC(c1ccc(C(F)(F)F)cc1)OC"],"products_smiles": ["N(c1ccc(F)cc1)CCCC(c1ccc(C(F)(F)F)cc1)(OC)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](c1ccc(F)cc1)CCCC(c1ccc(C(F)(F)F)cc1)OC","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(c1ccc(F)cc1)CCC[C](c1ccc(C(F)(F)F)cc1)OC","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(c1ccc(F)cc1)CCCC(c1ccc(C(F)(F)F)cc1)(OC)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
